US07652015B2
Place 2-p-tolyl-5-trimethylsilanyl-2H-pyrazole-3-carboxylic acid (620 mg, 2.26 mmol) in tert-butanol (5 mL) and toluene (5 mL). Add triethylamine (0.378 mL, 2.71 mmol), followed by diphenyl phosphoryl azide (0.586 mL, 2.71 mmol) and heat to 60° C. for 1 hour. Then heat to 100° C. for 19 hours. Concentrate reaction under reduced pressure. Subject residue to silica gel chromatography eluting with 0-30% EtOAc:hexane to yield 504 mg (65%) of (2-p-tolyl-5-trimethylsilanyl-2H-pyrazol-3-yl)-carbamic acid tert-butyl ester. MS(ES+): m/z=346.4 [M+H].

reactant | 2-p-tolyl-5-trimethylsilanyl-2H-pyrazole-3-carboxylic acid | 2.26 mmol, 620 mg | C1(=CC=C(C=C1)N1N=C(C=C1C(=O)O)[Si](C)(C)C)C | C14H18N2O2Si
reactant | triethylamine | 2.71 mmol, 0.378 mL | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphoryl azide | 2.71 mmol, 0.586 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 5 mL | C(C)(C)(C)O | C4H10O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (2-p-tolyl-5-trimethylsilanyl-2H-pyrazol-3-yl)-carbamic acid tert-butyl ester | 504 mg, 65% | C(C)(C)(C)OC(NC=1N(N=C(C1)[Si](C)(C)C)C1=CC=C(C=C1)C)=O | C18H27N3O2Si
